US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(2,3,5-trifluorophenyl)imidazolidin-4-one
The compound was synthesized starting from 5-aminobenzimidazole (0.732 g, 5.5 mmol), 2,3,5-trifluorobenzaldehyde (0.57 mL, 5 mmol), TMSCN (0.625 mL, 5 mmol), concentrated aqueous HCl (15 mL), triethyl orthoformate (30 mL, excess), NaBH4 (0.157 g, 4.14 mmol) as described in method 4.

reactant | 5-aminobenzimidazole | 5.5 mmol, 0.732 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | 2,3,5-trifluorobenzaldehyde | 5 mmol, 0.57 mL | FC1=C(C=O)C=C(C=C1F)F | C7H3F3O
reactant | TMSCN | 5 mmol, 0.625 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | HCl | 15 mL | Cl | ClH
reactant | NaBH4 | 4.14 mmol, 0.157 g | [BH4-].[Na+]
reactant | triethyl orthoformate | 30 mL | C(OCC)(OCC)OCC | C7H16O3
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(2,3,5-trifluorophenyl)imidazolidin-4-one | N1C=NC2=C1C=CC(=C2)N2CNC(C2C2=C(C(=CC(=C2)F)F)F)=O | C16H11F3N4O
